US04363813
Synthesis of 2-(3,4,5-trimethoxyphenyl)-4-methyl-5-acetylthiazole-semicarbazone
2-(3,4,5-trimethoxyphenyl)-4-methyl-5-acetylthiazole (3.7 g corresponding to its 0.012 mol) was dissolved into 50 ml of ethanol, and 32 ml of an aqueous 2% solution of sodium hydroxide (0.013 mol) and 1.8 g (0.016 mol) of semicarbazide hydrochloride were added to the solution. The whole mixture was then heated for 5 hours under a reflux condenser. After cooling the reaction mixture to room temperature, the mixture was introduced into one liter of iced water. The precipitate which separated was collected by filtration, washed with water and was recrystallized from ethanol to obtain the object consisting of yellow needle-like crystals amounting to 3.0 g and melting at 240° to 242° C. The yield was 69%.

reactant | 2-(3,4,5-trimethoxyphenyl)-4-methyl-5-acetylthiazole | 0.012 mol, 3.7 g | COC=1C=C(C=C(C1OC)OC)C=1SC(=C(N1)C)C(C)=O | C15H17NO4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.013 mol | [OH-].[Na+]
reactant | semicarbazide hydrochloride | 0.016 mol, 1.8 g | Cl.NNC(=O)N
solvent | water | one liter | O | H2O
product | 2-(3,4,5-trimethoxyphenyl)-4-methyl-5-acetylthiazole-semicarbazone | yield was 69% | COC=1C=C(C=C(C1OC)OC)C=1SC(=C(N1)C)C(C)=NNC(=O)N | C16H20N4O4S
